US09340556B2
To a suspension of (Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetic acid (20 g, 39.2 mmol) and (6R,7R)-benzhydryl 7-amino-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate, Hydrochloride (18.59 g, 41.2 mmol) in Dichloromethane (DCM) (300 mL) at −30° C. was added phenyl phosphorodichloridate (7.15 mL, 47.1 mmol), followed by dropwise 4-methylmorpholine (12.94 mL, 118 mmol) over 15 mins. The mixture was stirred at the same temperature over 3 h. LCMS indicated completion of the reaction. The reaction was quenched by addition of 10% aq. citric acid (120 mL), the organic solution was separated and washed with 5% NaHCO3, brine, and dried (Na2SO4), filtered, and concentrated. The residue was purified by CombiFlash automated silica gel chromatography (330 g column, 0-45% EtOAc/Hexanes) to afford (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate (29.9 g, 34.7 mmol, 89% yield) as a light yellow foaming solid. LCMS: (M+H)+: 860.3

reactant | (Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetic acid | 39.2 mmol, 20 g | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)O)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C18H26ClN3O7S
reactant | (6R,7R)-benzhydryl 7-amino-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate, Hydrochloride | 41.2 mmol, 18.59 g | Cl.N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl
reactant | phenyl phosphorodichloridate | 47.1 mmol, 7.15 mL | P(OC1=CC=CC=C1)(=O)(Cl)Cl | C6H5Cl2O2P
reactant | 4-methylmorpholine | 118 mmol, 12.94 mL | CN1CCOCC1 | C5H11NO
solvent | Dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (6R,7R)-benzhydryl 7-((Z)-2-(((1-(tert-butoxy)-2-methyl-1-oxopropan-2-yl)oxy)imino)-2-(2-((tert-butoxycarbonyl)amino)-5-chlorothiazol-4-yl)acetamido)-3-(chloromethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 34.7 mmol, 29.9 g, 89% yield | C(C)(C)(C)OC(C(C)(C)O\N=C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)CCl)\C=1N=C(SC1Cl)NC(=O)OC(C)(C)C)=O | C39H43Cl2N5O9S2
